US04305889
Five g (0.032 mole) of o-toluic chloride was dissolved in 150 ml of carbon tetrachloride and reaction was carried by passing dry chlorine into the solution under irradiation with an ultraviolet lamp while refluxing carbon tetrachloride. From the reaction mass an amount thereof necessary for gas chromatographic analysis was occasionally withdrawn to examine the change of the peak of α,α-dichloro-o-toluic chloride by comparing with an authentic sample, the introduction of chlorine was stopped after the peak was disappeared. Part of the oily matter obtained by reduced pressure distillation for removal of carbon tetrachloride was withdrawn, and on analyzing it by gas chromatography it was possible to ascertain that 1,1,3,3-tetrachloro-1,3-dihydroisobenzofuran and α,α,α-trichloro-o-toluic chloride was formed in a mixed ratio by weight of about 6:4, yield 6.6 g (chlorination yield 80%).

reactant | o-toluic chloride | 0.032 mole | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
reactant | chlorine | ClCl | Cl2
reactant | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α,α,α-trichloro-o-toluic chloride | yield 80% | ClC(C=1C(=CC=CC1)C(=O)Cl)(Cl)Cl | C8H4Cl4O
